US05772990
10 g of 2-amino-4,6-dichloropyrimidine are suspended in 100 ml of ethanol. 20.8 g of ethylamine are added as 33% solution in water. The reaction mixture is refluxed for 2 hours and is then evaporated to dryness. The precipitate obtained is taken up in 100 ml of water. After 1 hour's stirring, the mixture is filtered on sintered glass. The precipitate is recrystallized from 25 ml of acetonitrile. 8.10 g of 2-amino-4-ethylamino-6-chloropyrimidine are obtained.

reactant | 2-amino-4,6-dichloropyrimidine | 10 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | ethylamine | 20.8 g | C(C)N | C2H7N
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-amino-4-ethylamino-6-chloropyrimidine | 8.10 g, Yield=77% | NC1=NC(=CC(=N1)NCC)Cl | C6H9ClN4
